US06462032B1
A solution of 3,3-dimethylglutaric anhydride in dry THF (60 cm3) was added over 30 min. to lithium aluminum hydride in dry THF (300 cm3) under nitrogen at 0° C. The mixture was then brought gradually up-to reflux. After 3 h, the mixure was cooled, treated with water (3.3 cm3), sodium hydroxide solution (15%, 3.3 cm3) and water (9.9 cm3). The mixture was then filtered, the precipitate extracted with EtOAc (×3), and the combined organics evaporated to afford 3,3-dimethyl-1,5-pentanediol (quantitative yield); 1H NMR (CDCl3) δ 0.95 (s, 6H), 1.57 (t, 4H, J=6.3 Hz), 3.75 (t, 4H, J=6.3 Hz).

reactant | 3,3-dimethylglutaric anhydride | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3.3 cm3 | O | H2O
reactant | sodium hydroxide | 3.3 cm3 | [OH-].[Na+]
reactant | water | 9.9 cm3 | O | H2O
solvent | THF | 60 cm3 | C1CCOC1 | C4H8O
solvent | THF | 300 cm3 | C1CCOC1 | C4H8O
product | 3,3-dimethyl-1,5-pentanediol | quantitative yield | CC(CCO)(CCO)C | C7H16O2
